US07851465B2
(Z)-7-Chloro-5-(4-methoxyphenyl)-1-methyl-3-(2-methylbenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one.
To a stirred and cooled (dry ice/acetone bath) solution of (Z)-7-chloro-5-(4-methoxyphenyl)-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one (0.50 g, 1.59 mmol) in THF (8 mL) was slowly added 1 M KOtBu (2.4 mL, 2.4 mmol, 1.5 eq). The resulting deep red mixture was stirred over dry ice/acetone bath ˜10 min followed by the slow addition of a solution of 2-methylbenzyl bromide (0.46 g, 2.5 mmol, 1.5 eq) in THF (2 mL). After stirring another ˜35 min at −78° C., the reaction mixture was quenched with water and diluted with EtOAc. The organic layer was dried (Na2SO4), filtered and evaporated (rotovap, then high vacuum). Chromatography over silica gel using 20-40% EtOAc/heptane gave 0.56 g (yield of 84%) of the title product [Note: when using benzyl chlorides as alkylating agents, tetrabutyl ammonium iodide was added along with the alkylating agent at the low temperature]. 1H NMR (300 MHz, CDCl3) δ 2.38 (s, 3H), 3.41 (s, 3H), 3.5-3.65 (m, 2H), 3.74 (dd, 1H), 3.84 (s, 3H), 6.89 (dt, 2H), 7.05-7.15 (m, 3H), 7.25-7.35 (m, 3H), 7.45-7.5 (m, 3H).

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | (Z)-7-chloro-5-(4-methoxyphenyl)-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one | 1.59 mmol, 0.50 g | ClC1=CC\2=C(N(C(C\N=C2\C2=CC=C(C=C2)OC)=O)C)C=C1 | C17H15ClN2O2
reactant | KOtBu | 2.4 mmol, 1 M, 2.4 mL, 1.5 eq | CC(C)(C)[O-].[K+]
reactant | 2-methylbenzyl bromide | 2.5 mmol, 0.46 g, 1.5 eq | CC1=C(CBr)C=CC=C1 | C8H9Br
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (Z)-7-Chloro-5-(4-methoxyphenyl)-1-methyl-3-(2-methylbenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 0.56 g, yield of 84% | ClC1=CC\2=C(N(C(C(\N=C2\C2=CC=C(C=C2)OC)CC2=C(C=CC=C2)C)=O)C)C=C1 | C25H23ClN2O2
